US06133279
In a mixed solvent of 40 ml of ethanol and 16 ml of pyridine was dissolved 8.54 g of 5-acetoxy-4,6-di-t-butyl-2-(4-formylphenoxymethyl)-2-methyl-2,3-dihydrobenzofuran and 2.38 g of aminoguanidine hydrochloride was added at room temperature. After heating under reflux for 14 hours and then cooling, ethanol and excess pyridine were distilled off using an evaporator and the concentrate was combined with water and extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with chloroform containing 5% methanol to give 9.31 g of 1-{4-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine (rotamer mixture) as a pale yellow oil (yield 97%).

reactant | 5-acetoxy-4,6-di-t-butyl-2-(4-formylphenoxymethyl)-2-methyl-2,3-dihydrobenzofuran | 8.54 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)COC2=CC=C(C=C2)C=O)C1C(C)(C)C)C(C)(C)C | C27H34O5
reactant | aminoguanidine hydrochloride | 2.38 g | C(=N)(N)NN.Cl
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | 1-{4-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine | 9.31 g, yield 97% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)COC2=CC=C(C=NNC(=N)N)C=C2)C1C(C)(C)C)C(C)(C)C | C28H38N4O4
